US07989457B2
3-{4-[1-(4-Bromo-phenyl)-1-hydroxy-heptyl]-benzoylamino}-propionic acid methyl ester (350 mg, 0.74 mmol), potassium carbonate (304 mg, 2.2 mmol), 4-trifluoromethylphenyl boronic acid (279 mg, 1.5 mmol) and tetrakis(triphenylphosphine)palladium (86 mg, 0.074 mmol) are place in a flask. After the reaction is purged with N2 for several times, THF/H2O (20 mL/5 mL) is added. The resulting solution is refluxed overnight, loaded on silica gel, eluted with hexane and ethyl acetate to give 3-{4-[1-Hydroxy-1-(4′-trifluoromethyl-biphenyl-4-yl)-heptyl]-benzoylamino}-propionic acid methyl ester (220 mg) as yellow oil.

reactant | 3-{4-[1-(4-Bromo-phenyl)-1-hydroxy-heptyl]-benzoylamino}-propionic acid methyl ester | 0.74 mmol, 350 mg | COC(CCNC(C1=CC=C(C=C1)C(CCCCCC)(O)C1=CC=C(C=C1)Br)=O)=O | C24H30BrNO4
reactant | potassium carbonate | 2.2 mmol, 304 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-trifluoromethylphenyl boronic acid | 1.5 mmol, 279 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.074 mmol, 86 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-{4-[1-Hydroxy-1-(4′-trifluoromethyl-biphenyl-4-yl)-heptyl]-benzoylamino}-propionic acid methyl ester | 220 mg | COC(CCNC(C1=CC=C(C=C1)C(CCCCCC)(C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)O)=O)=O | C31H34F3NO4
